US07361763B2
A solution of (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone, 2-methoxyethylamine (1 equiv.) and triethylamine (1.2 equiv.) in absolute EtOH (0.17 M) was sealed in a Smith process vial. The reaction was run in a Personal Chemistry® microwave reactor at 160° C. for 900 s. The mixture was diluted with water, and the resulting precipitate was filtered off, washed with water, and dried in vacuo to give (2-amino-5-bromo-pyridin-3-yl)-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone as a yellow solid (86% yield). 1H NMR (DMSO-d6): δ 8.28 (d, J=2.5 Hz, 1H), 8.23 (d, J=2.5 Hz, 1H), 7.75 (d, J=2.5 Hz, 1H), 7.69 (dd, J=2.0, 9.0 Hz, 1H), 7.64 (broad s, 1H), 7.12 (broad s, 2H), 6.59 (d, J=9.5 Hz, 1H), 3.51 (t, J=4.5 Hz, 2H), 3.47 (t, J=4.5 Hz, 2H), 3.26 (s, 3H); HPLC/MS m/z: 351, 353 [MH]+.

reactant | (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)F)Br | C11H7BrFN3O
reactant | 2-methoxyethylamine | 1 equiv. | COCCN | C3H9NO
reactant | triethylamine | 1.2 equiv. | C(C)N(CC)CC | C6H15N
solvent | EtOH | 0.17 M | CCO | C2H6O
solvent | water | O | H2O
product | (2-amino-5-bromo-pyridin-3-yl)-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone | 86% yield | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)NCCOC)Br | C14H15BrN4O2
